US07666864B2
Step 1: (6S)-6-[(5-Bromo-2-thienyl)methoxy]-2-nitro-6,7-dihydro-5H-imidazo[2,1-b][1,3]oxazine.
NaH (60% w/w, 0.60 g, 15 mmol) was added to a solution of (6S)-2-nitro-6,7-dihydro-5H-imidazo[2,1-b][1,3]oxazin-6-ol (2.00 g, 10.8 mmol) and 2-bromo-5-(bromomethyl)thiophene (prepared by the method of Mamane et al., Synthesis, 3; 2003; 455-467) (3.20 g, 12.5 mmol) in DMF (40 mL) at 0° C. The mixture was stirred at 0° C. for 2 h, then poured onto ice and extracted with EtOAc (2×200 mL). The organic layer was dried and evaporated. Column chromatography (hexanes/EtOAc, gradient elution) gave the titled compound (2.985 g, 77%) as a white solid. APCI MS m/z 360, 362 (M+H). 1H NMR (400 MHz, DMSO-d6) δ 8.00 (s, 1H), 7.11 (d, J=3.7 Hz, 1H), 6.95 (d, J=3.7 Hz, 1H), 4.79 (d, J=13.2 Hz, 1H), 4.76 (d, J=13.2 Hz, 1H), 4.60 (dt, J=12.0, 1.6 Hz, 1H), 4.44 (d, J=12.0 Hz, 1H), 4.19-4.25 (m, 3H).

reactant | NaH | 15 mmol, 0.60 g | [H-].[Na+]
reactant | (6S)-2-nitro-6,7-dihydro-5H-imidazo[2,1-b][1,3]oxazin-6-ol | 10.8 mmol, 2.00 g | [N+](=O)([O-])C=1N=C2OC[C@H](CN2C1)O | C6H7N3O4
reactant | 2-bromo-5-(bromomethyl)thiophene | BrC=1SC(=CC1)CBr | C5H4Br2S
solvent | DMF | 40 mL | CN(C)C=O | C3H7NO
product | (6S)-6-[(5-Bromo-2-thienyl)methoxy]-2-nitro-6,7-dihydro-5H-imidazo[2,1-b][1,3]oxazine | 2.985 g, 77% | BrC1=CC=C(S1)CO[C@H]1CN2C(OC1)=NC(=C2)[N+](=O)[O-] | C11H10BrN3O4S
